US04927845
10-Bromo-1,8-dihydroxy-9-anthrone (75 mg) was dissolved in dichloromethane (5 ml) and 1-dodecanethiol (0.06 ml) was added. The solution was stirred at room temperature for 7 hours. Removal of the solvent gave a yellow solid which was then recrystallised from absolute ethanol to give 1,8-dihydroxy-10-dodecylthio-9-anthrone (89 mg, 85%) as pale yellow needles, melting point 76° C. (Found: C 73.3, H 8.2, S 7.9; C26H34O3S requires C 73.2, H 8.05, S 7.5%).

reactant | 10-Bromo-1,8-dihydroxy-9-anthrone | 75 mg | BrC1C=2C=CC=C(C2C(C2=C(C=CC=C12)O)=O)O | C14H9BrO3
reactant | 1-dodecanethiol | 0.06 ml | C(CCCCCCCCCCC)S | C12H26S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,8-dihydroxy-10-dodecylthio-9-anthrone | 89 mg, 85% | OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)SCCCCCCCCCCCC | C26H34O3S
